US06403561B1
Preparation of Methyl 5-methylindoline-2(R/S)-carboxylate
Methyl 5-methylindole-2-carboxylate (0.95 g, 5 mmol) and magnesium shavings (0.62 g, 25 mmol) were suspended in methanol (25 ml) and the mixture was stirred at 15° C. for 2 h. The mixture was filtered, diluted with methylene chloride (100 ml) and washed with NH4Cl solution. The organic phase was dried (Na2SO4) and the solvent removed to give the crude product, which was purified by chromatography on a column of silica gel, using a 7/3 petroleum/ethyl acetate mixture as eluent.

reactant | Methyl 5-methylindole-2-carboxylate | 5 mmol, 0.95 g | CC=1C=C2C=C(NC2=CC1)C(=O)OC | C11H11NO2
reactant | magnesium | 25 mmol, 0.62 g | [Mg] | Mg
solvent | methanol | 25 ml | CO | CH4O
product | Methyl 5-methylindoline-2(R/S)-carboxylate | CC=1C=C2CC(NC2=CC1)C(=O)OC | C11H13NO2
